US07745641B2
In a similar manner to Step 1 of Reference Example 4, 5-formylindole (1.20 g, 8.27 mmol) was dissolved in acetonitrile (24 mL), and the solution was treated with di-tert-butyldicarbonate (2.09 mL, 9.10 mmol) and DMAP (10.1 mg, 0.0827 mmol), and then the mixture was treated with 4,4-dimethoxypiperidine hydrochloride (3.00 g, 16.5 mmol), triethylamine (2.53 mL, 18.2 mmol), acetic acid (4.73 mL, 82.6 mmol) and sodium triacetoxyborohydride (5.25 g, 24.8 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 90/10 to 85/15) to obtain 5-(4,4-dimethoxypiperidinomethyl)-1-(tert-butoxycarbonyl)indole (1.20 g, yield 39%).

reactant | 5-formylindole | 8.27 mmol, 1.20 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | di-tert-butyldicarbonate | 9.10 mmol, 2.09 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4,4-dimethoxypiperidine hydrochloride | 16.5 mmol, 3.00 g | Cl.COC1(CCNCC1)OC
reactant | triethylamine | 18.2 mmol, 2.53 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 82.6 mmol, 4.73 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 24.8 mmol, 5.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.0827 mmol, 10.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(4,4-dimethoxypiperidinomethyl)-1-(tert-butoxycarbonyl)indole | 1.20 g, yield 39% | COC1(CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C)OC | C21H30N2O4
